US04472310
31 g of 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7-one was reacted at room temperature within 1.5 hours in 310 ml of tetrahydrofuran with 31 g of lithium tri-tert.-butoxyaluminohydride. The reaction solution was diluted with diethyl ether, washed with potassium-sodium tartrate solution and water, dried, and evaporated. The residue was chromatographed on silica gel, thus obtaining 24.3 g 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7β-ol, mp 199.5°-200° C. (acetone).

reactant | 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7-one | 31 g | C(C)(=O)O[C@@H]1CC2=CC([C@H]3[C@@H]4[C@H]5[C@@H](C6([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCCO6)C5)=O | C24H32O5
reactant | lithium tri-tert.-butoxyaluminohydride | 31 g | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | tetrahydrofuran | 310 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7β-ol | 24.3 g | C(C)(=O)O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C6([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCCO6)C5)O | C24H34O5
